US07034045B1
Preparation of (4-Bromo-2-nitro-phenyl)-acetic Acid Ethyl Ester
To a stirred solution of concentrated HCl (18.00 mL) diluted to 72.00 mL with 95% Ethanol was added 2-(4-bromo-2-nitro-phenyl)-malonic acid diethyl ester (2.50 g, 6.94 mmol). The resulting mixture was then heated at reflux under N2 for 4 h. The reaction mixture was allowed to cool to ambient temperature and poured into H2O (250 mL). This aqueous mixture was then extracted with 2×150 mL of Diethyl ether. The Et2O layer was extracted with H2O and 5% NaHCO3 washed with brine, dried (MgSO4), and filtered. Evaporation of the filtrate in vacuo gave the intermediate title compound as a yellow liquid (1.52 g, 76%).

reactant | HCl | 18.00 mL | Cl | ClH
reactant | 2-(4-bromo-2-nitro-phenyl)-malonic acid diethyl ester | 6.94 mmol, 2.50 g | C(C)OC(C(C(=O)OCC)C1=C(C=C(C=C1)Br)[N+](=O)[O-])=O | C13H14BrNO6
reactant | H2O | 250 mL | O | H2O
solvent | Ethanol | C(C)O | C2H6O
product | (4-Bromo-2-nitro-phenyl)-acetic Acid Ethyl Ester | 1.52 g, 76% | C(C)OC(CC1=C(C=C(C=C1)Br)[N+](=O)[O-])=O | C10H10BrNO4
